datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C1=CC=CC=C1)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C1=CC=CC=C1)CC 10=20;20,21=21"
"[OH:21][C:20]1(OCC)[OH+:10]C(CC)C(C)C1C>>[OH:10]C(CC)C(C)C([C:20](OCC)=[OH+:21])C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)[H].[O-:21]CC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C([H])C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])/C([H])=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][CH:20]2([H])C(C3=C(C([O:10]2)[H])C=CC=C3)[H]>>[O-:10]C(C1=C(C([CH:20]([H])=[O:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH][H])[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH][H])[NH][H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])C>>[H]N([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])C 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C)C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O]C(C)C(CC)[S]1 10=20;20,21=21"
"[O-:10]C(CC)/C(O)=C([C:20]([H])=[O:21])/[H]>>[O-:21][C:20]1([H])[O:10]C(CC)C(O)=C1[H] 10=20;20,21=21"
"CC[NH:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[NH:10][H].C[NH+:21]=[C:20]([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"C1CC[N:10](CC1)[CH:20]([I:21])C>>C1CC[N+:10](=[CH:20]C)CC1.[I-:21] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C)CC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C)CC)[H] 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C([H])=C([H])\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C([H])=C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CCCCCC)[H]>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[O-:21]C 10=20;20,21=21"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][O:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
